US06492562B1
B. N-Benzyl (±)-(2S*,3R*)-3-Hydroxy-2-methylhexanamide
Benzylamine (0.6 mL, 5.5 mmol) is added dropwise to a solution of N-[(2S*,3R*)-3-hydroxy-2-methylhexanoyl]-2-benzoxazolinone (1.31 g, 5.0 mmol) in 10 mL of tetrahydrofuran. A mildly exothermic reaction ensues. After 15 min, the solvent is evaporated. The residue is redissolved in 50 mL of CH2Cl2 and washed successively with equal volumes of 1 N HCl, 1 N NaOH, water, and brine. After drying over MgSO4, the solution is evaporated to yield 1.12 g (95% yield) of the product as a white solid which was recrystallized from ethyl acetate/hexanes as white needles, mp 114-115° C. 1H-NMR (d6-DMSO, 400 MHz) δ 8.27 (t, J=6, 1H), 7.30 (m, 2H), 7.22 (m, 3H), 4.49 (d, J=6, 1H), 4.27 (dd, J=6, 15, 1H), 4.20 (dd, J=6,15, 1H), 3.44 (m, 1H), 2.20 (q, J=7, 1H), 1.43 (m, 1H), 1.22 (m, 3H), 1.04 (d, J=7, 3H), 0.79 (t, J=7, 3H). 13C-NMR (d6-DMSO, 100 MHz): 175.2, 140.2, 128.6, 127.6, 127.1, 71.8, 46.9, 42.2, 37.6, 19.0, 14.7, 14.5.

reactant | Benzylamine | 5.5 mmol, 0.6 mL | C(C1=CC=CC=C1)N | C7H9N
reactant | N-[(2S*,3R*)-3-hydroxy-2-methylhexanoyl]-2-benzoxazolinone | 5.0 mmol, 1.31 g | O[C@@H]([C@@H](C(=O)N1C(OC2=C1C=CC=C2)=O)C)CCC | C14H17NO4
solvent | tetrahydrofuran | 10 mL | O1CCCC1 | C4H8O
product | N-Benzyl (±)-(2S*,3R*)-3-Hydroxy-2-methylhexanamide | 1.12 g, 95% yield | C(C1=CC=CC=C1)NC([C@H]([C@@H](CCC)O)C)=O | C14H21NO2
